US08431563B2
A 250-mL round-bottomed flask was charged with di-tert-butyl (2R)-2-(((2-methylpropyl)(methylsulfonyl)amino)methyl)-1,4-piperazinedicarboxylate (0.840 g, 1.87 mmol), HCl (4.0 M in 1,4-dioxane, 2.4 mL, 9.6 mmol, Sigma-Aldrich, St. Louis, Mo.) and EtOAc (20 mL). The reaction mixture was heated at 70° C. for 24 h and then was allowed to cool to room temperature. The resulting white solid was collected via filtration and washed with EtOAc to give N-(2-methylpropyl)-N-((2R)-2-piperazinylmethyl)methanesulfonamide dihydrochloride (0.633 g) as a white solid.

reactant | di-tert-butyl (2R)-2-(((2-methylpropyl)(methylsulfonyl)amino)methyl)-1,4-piperazinedicarboxylate | 1.87 mmol, 0.840 g | CC(CN(S(=O)(=O)C)C[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C | C20H39N3O6S
reactant | HCl | 9.6 mmol, 4.0 M, 2.4 mL | Cl | ClH
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-(2-methylpropyl)-N-((2R)-2-piperazinylmethyl)methanesulfonamide dihydrochloride | 0.633 g | Cl.Cl.CC(CN(S(=O)(=O)C)C[C@@H]1NCCNC1)C | InChI=1S/C10H23N3O2S.2ClH/c1-9(2)7-13(16(3,14)15)8-10-6-11-4-5-12-10;;/h9-12H,4-8H2,1-3H3;2*1H/t10-;;/m1../s1
